US06001835
Step C: 3-Carbethoxy-1-phenyl-2-piperidinone
A mixture of 3-carbethoxy-2-piperidinone (1.00 g, 5.84 mmol), triphenylbismuth (3.95 g, 8.77 mmol), copper(II)acetate (1.58 g, 9.77 mmol) and triethylamine (1.22 mL, 8.77 mmol) was stirred for 17 h at 20° C. in dichloromethane (25 mL). The reaction mixture was adsorbed onto silica gel and eluted with 30-50% ethyl acetate/hexane. The title compund was obtained as an oil.

reactant | 3-carbethoxy-2-piperidinone | 5.84 mmol, 1.00 g | C(=O)(OCC)C1C(NCCC1)=O | C8H13NO3
reactant | triphenylbismuth | 8.77 mmol, 3.95 g | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
reactant | triethylamine | 8.77 mmol, 1.22 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
catalyst | copper(II)acetate | 9.77 mmol, 1.58 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-Carbethoxy-1-phenyl-2-piperidinone | C(=O)(OCC)C1C(N(CCC1)C1=CC=CC=C1)=O | C14H17NO3
